US03947473
To a solution of (±)-6-acetoxy-2-methoxy-2,5,7,8-tetramethylchroman in 2500 ml. of acetone was added 2000 ml. of H2O followed by 16.6 ml. of concentrated aqueous HCl. Solvent was distilled from the stirred mixture until the head temperature reached 90°C. The suspension was cooled in an H2O bath to 50°C. At 70°C., 2000 ml. of acetone was added, giving a clear solution. The solution was seeded occasionally until crystallization began. After 3.5 hours, 1500 ml. of H2O was added and the suspension was cooled in an ice bath. The solid was removed by filtration, washed with H2O and dried at 50°C./0.1 mmHg. to give (±)-6-acetoxy-2-hydroxy-2,5,7,8-tetramethylchroman as a granular yellow-tan solid, sintering from 114°C., m.p. 127°-132°C.

reactant | (±)-6-acetoxy-2-methoxy-2,5,7,8-tetramethylchroman | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)OC)C | C16H22O4
reactant | acetone | CC(=O)C | C3H6O
reactant | HCl | Cl | ClH
solvent | H2O | O | H2O
product | (±)-6-acetoxy-2-hydroxy-2,5,7,8-tetramethylchroman | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)O)C | C15H20O4
